US09254251B2
Preparation of 5-adamantan-1-yl-2-hydroxy-N-[2-(4-hydroxyphenyl)-ethyl]-4-methoxybenzamide
0.15 g of the target compound is obtained as solid of a light color in substantially the same manner as in (2) of Example 1, except for using 5-adamantan-1-yl-2-hydroxy-4-methoxybenzoic acid instead of 5-adamantan-1-yl-2,4-dihydroxybenzoic acid and using tyramine instead of dopamine.

reactant | 5-adamantan-1-yl-2-hydroxy-4-methoxybenzoic acid | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)O)C2)O)OC | C18H22O4
reactant | tyramine | NCCC1=CC=C(C=C1)O | C8H11NO
product | 5-adamantan-1-yl-2-hydroxy-N-[2-(4-hydroxyphenyl)-ethyl]-4-methoxybenzamide | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)NCCC3=CC=C(C=C3)O)C2)O)OC | C26H31NO4
